US04788199
3-Methoxybenzoyl chloride (2.81 cc) is added at 5° C. to ethyl 3-(2-aminobenzoyl)propionate (2.21 g) and triethylamine (4.2 cc) in chloroform (25 cc). The mixture is left for 1 hour at room temperature (approximately 20° C.), water (25 cc) is added and the mixture decanted. The organic phase is evaporated under reduced pressure and the residue taken up with ammonium acetate (17 g). The mixture is brought to 100° C. for 7 hours and the acetic acid formed is then evaporated off under reduced pressure. The residue is poured into water (100 cc) and the aqueous phase extracted with ethyl acetate (3×50 cc). The aqueous phase is dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. The residual product is chromatographed in silica gel with a cyclohexane/ethyl acetate (1:1 by volume) mixture as eluant. After recrystallization in ethanol, ethyl 2-(3-methoxyphenyl)-4-quinazolinepropionate (1.5 g), m.p. 70° C., is obtained.

reactant | 3-Methoxybenzoyl chloride | 2.81 cc | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | ethyl 3-(2-aminobenzoyl)propionate | 2.21 g | NC1=C(C(=O)CCC(=O)OCC)C=CC=C1 | C12H15NO3
reactant | triethylamine | 4.2 cc | C(C)N(CC)CC | C6H15N
reactant | water | 25 cc | O | H2O
solvent | chloroform | 25 cc | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(3-methoxyphenyl)-4-quinazolinepropionate | 1.5 g | COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)OCC | C20H20N2O3
